US05969139
Reaction of 18.4 g of 3-amino-5,5-dimethyl-2-cyclohexen-1-one with 10 g of 3-nitrobenzaldehyde in an analogous manner to that described in Example 1 gave 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-(3-nitrophenyl)-1,8-(2H,5H)-acridinedione. Crystallization from dimethylformamide/water gave 22.6 g of pure material as pale yellow crystals of melting point >280° C.,

reactant | 3-amino-5,5-dimethyl-2-cyclohexen-1-one | 18.4 g | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 3-nitrobenzaldehyde | 10 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
product | 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-(3-nitrophenyl)-1,8-(2H,5H)-acridinedione | CC1(CC(C=2C(C=3C(CC(CC3NC2C1)(C)C)=O)C1=CC(=CC=C1)[N+](=O)[O-])=O)C | C23H26N2O4
